US06667316B1
A mixture of 2-[1-(3-cyclopentyloxy-4-methoxyphenyl)-3-oxobutyl]-4-aminoisoindoline-1,3-dione (0.41 g, 0.97 mmol), 2,5-dimethoxytetrahydrofuran (0.14 g, 1.07 mmol) and acetic acid (2 mL) in 1,2-dichloroethane (10 mL) was refluxed for 1 hour. The mixture was diluted with methylene chloride (25 mL) and washed with water (2×20 mL), brine (20 mL) and dried. Solvent was removed and the residue was purified by chromatography (Silica gel, Hexane:ethyl acetate 6:4) to give 2-[1-(3-cyclopentyloxy-4-methoxyphenyl)-3-oxobutyl]-4-pyrrolylisoindoline-1,3-dione (0.41 g, 91%) as a white solid: mp 142-144° C.; 1H NMR (CDCl3) δ7.72-7.56 (m, 3H), 7.14-7.04 (m, 4H), 6.79 (d, J=8.2 Hz, 1H), 6.38 (m, 2H), 5.77-5.71 (dd, J=5.4, 9.8 Hz, 1H), 4.77 (m, 1H), 4.05-3.94 (dd, J=9.9, 18.9 Hz, 1H), 3.79 (s, 3H), 3.30-3.21 (dd, J=5.4, 18.0 Hz, 1H), 2.16 (s, 3H), 1.98-1.60 (m, 8H); 13C NMR (CDCl3) δ205.31, 167.21, 166.14, 149.75, 147.61, 138.35, 135.09, 133.98, 131.34, 129.91, 126.04, 121.31, 120.74, 120.20, 114.72, 111.68, 110.61, 80.38, 55.97, 50.18, 44.72, 32.74, 30.12, 24.03; Anal. Calcd. for C28H28N2O5; C, 71.17; H, 5.97; N, 5.93. Found: C, 71.09; H, 6.09; N, 5.80.

reactant | 2-[1-(3-cyclopentyloxy-4-methoxyphenyl)-3-oxobutyl]-4-aminoisoindoline-1,3-dione | 0.97 mmol, 0.41 g | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC(C)=O)N1C(C2=CC=CC(=C2C1=O)N)=O | C24H26N2O5
reactant | 2,5-dimethoxytetrahydrofuran | 1.07 mmol, 0.14 g | COC1OC(CC1)OC | C6H12O3
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-[1-(3-cyclopentyloxy-4-methoxyphenyl)-3-oxobutyl]-4-pyrrolylisoindoline-1,3-dione | 0.41 g, 91% | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC(C)=O)N1C(C2=CC=CC(=C2C1=O)C=1NC=CC1)=O | C28H28N2O5
